US05128356
Ethyl 2-chloromethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
To a solution of ethyl 2-hydroxymethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7carboxylate (0.2 g) in CH2Cl2 (3 ml) was added thionyl chloride (0.3 ml) dropwise and the mixture was refluxed for 3 hours. The reaction solution was poured into ice-water and the organic layer was washed with water, dried and evaporated to dryness to give a pale yellow amorphous powder (0.2 g, 96%).

reactant | ethyl 2-hydroxymethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7carboxylate | 0.2 g | OCC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C25H22N6O3
reactant | thionyl chloride | 0.3 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-chloromethyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.2 g, 96% | ClCC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C25H21ClN6O2
